US06828383B2
Into a 1-liter reaction kettle equipped with a stirrer, thermometer, reflux condenser and an addition funnel, 128.3 grams of phenol (1.35 mole), 21.3 grams of t-octylphenol (0.10 mole) and 1.0 gram of zinc acetate catalyst were charged and heated to 35-45° C. Then, 59.9 grams of an aqueous formaldehyde (first) solution (37.6 wt. %; 0.75 mole) were added slowly for a period of about 10-15 minutes. After the formaldehyde addition, the reactor contents were stirred under reflux for about 90-180 minutes. Then, 24.0 grams of formaldehyde solution (second) (37.6 wt. %; 0.30 mole) were added into the reactor for a period of 15-30 minutes at 85-95° C. The reactor contents were again heated to reflux for an additional period of 90-180 minutes. A distillation set up was made and the water distillate was collected until the temperature of the reactor reached 125-130° C. under atmospheric conditions. After this, once again the reactor contents were stirred under reflux for 60-120 minutes. The water present in the reactor was then removed first by atmospheric distillation to 150-155° C. and later by applying vacuum and holding it for 15 minutes at 155-160° C. and under 26-28 inches of Hg vacuum. After this distillation, vacuum was released and the reflux condenser was attached again. Resorcinol (114.0 grams; 1.035 mole) was then added into the reactor at 130-150° C. slowly with constant stirring. After this addition, 50.6 grams of an aqueous formaldehyde solution (third) (37.6 wt. %; 0.634 mole) was added for about 45-60 minutes under reflux. Following the third formaldehyde addition, the reactor contents were held at reflux for an additional 30 minutes. Atmospheric and vacuum distillations were carried out once again to remove distillate to obtain a modified phenolic novolak resin with a resorcinolic novolak, produced in-situ from the resorcinol-formaldehyde reaction, having a softening point of 112° C.

reactant | phenol | 1.35 mole, 128.3 grams | C1(=CC=CC=C1)O | C6H6O
reactant | t-octylphenol | 0.10 mole, 21.3 grams | C(C)(C)(CC(C)(C)C)C1=C(C=CC=C1)O | C14H22O
reactant | formaldehyde | 59.9 grams | C=O | CH2O
reactant | formaldehyde | 0.30 mole, 24.0 grams | C=O | CH2O
reactant | Resorcinol | 1.035 mole, 114.0 grams | C1(O)=CC(O)=CC=C1 | C6H6O2
reactant | formaldehyde | 0.634 mole, 50.6 grams | C=O | CH2O
catalyst | zinc acetate | 1.0 gram | C(C)(=O)[O-].[Zn+2].C(C)(=O)[O-]
product | resorcinol-formaldehyde | C1(O)=C(C(O)=CC=C1)C=O | C7H6O3
